US06673800B2
Preparation of 1-{3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propyl}4-phenylpiperazine
3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal (36.3 mg, 0.135 mmol), 1-phenylpiperazine (20.0 mg, 0.123 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (78.4 mg, 0.369 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 45.5 mg (90.1%) of the target compound was obtained.

reactant | 3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal | 0.135 mmol, 36.3 mg | COC=1C=C(C=CC1OC)C1=NOC(C1)CCC=O | C14H17NO4
reactant | 1-phenylpiperazine | 0.123 mmol, 20.0 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | NaBH(OAc)3 | 0.369 mmol, 78.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propyl}4-phenylpiperazine | 45.5 mg, 90.1% | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCN1CCN(CC1)C1=CC=CC=C1 | C24H31N3O3
